US07495027B2
Preparation of 3-Bromo-4-methoxy-5[(Z)-1-naphthylmethylidene]furan-2(5H-one
A solution of 3-bromo-5-(hydroxynaphthalen-1-ylmethyl)-4-methoxy-5H-furan-2-one (5.3 g, 15.17 mmol) and triethylamine (9.22 g, 12.7 mL, 91.1 mmol) in anhydrous CH2Cl2 at 0° C. is treated dropwise with methane sulfonyl chloride (6.96 g, 4.7 mL, 60.7 mmol), stirred for 0.5 h at 0° C., allowed to warm to room temperature, treated sequentially with additional triethylamine (4.64 g, 6.4 mL, 45.9 mmol) and methane sulfonyl chloride (3.55 g, 2.4 mL, 31 mmol), stirred until the disappearance of starting material and diluted with EtOAc and water. The phases are separated and the organic phase is dried over Na2SO4 and concentrated in vacuo. The resultant residue is flash chromatographed (silica gel, 25% EtOAc in hexanes as eluent) to afford the title product as a yellow solid, 4.0 g (80% yield), mp 143-148° C., identified by NMR and mass spectral analyses.

reactant | 3-bromo-5-(hydroxynaphthalen-1-ylmethyl)-4-methoxy-5H-furan-2-one | 15.17 mmol, 5.3 g | BrC=1C(OC(C1OC)C(C1=CC=CC2=CC=CC=C12)O)=O | C16H13BrO4
reactant | triethylamine | 91.1 mmol, 12.7 mL, 9.22 g | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 60.7 mmol, 4.7 mL, 6.96 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 45.9 mmol, 6.4 mL, 4.64 g | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 31 mmol, 2.4 mL, 3.55 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3-Bromo-4-methoxy-5[(Z)-1-naphthylmethylidene]furan | 80% yield | BrC=1CO\C(\C1OC)=C/C1=CC=CC2=CC=CC=C12 | C16H13BrO2
